* C:\Users\IT ZONE\Videos\UPwork\work 12\Position Sensor Circuit - Pangolin Polarity Mode edited.asc
* Generated by LTspice 24.1.10 for Windows.
D1 0 N016 LinearModelLED
B1 0 N003 I=0
C1 N003 0 {Cd}
X§U1 0 N005 +15V -15V N004 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R1 N005 N003 100
V2 +15V 0 15
V3 0 -15V 15
R2 N004 N003 15k
C2 N004 N005 100p
D2 N016 N014 LinearModelLED
B2 0 N008 I=0
C3 N008 0 {Cd}
X§U2 0 N010 +15V -15V N007 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R3 N010 N008 100
R4 N007 N008 15k
C4 N007 N010 100p
R5 N004 N015 5k
R6 N015 N007 5k
R7 N009 N004 10k
R8 N009 N007 10k
R9 N009 N015 24k
V1 2.5V 0 2.5
R10 N009 2.5V 2.2k
X§U3 0 N009 +15V -15V N011 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
C5 N011 N009 4.7n
Q1 -15V N011 Vout 0 2N2907
R11 Vout N011 150
R12 N012 Vout 49.9
R13 N013 N012 49.9
R14 N014 N013 49.9
X§U4 N006 N001 +15V -15V N002 level1 Avol=1Meg GBW=10Meg Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
C6 N002 N001 150p
R15 N006 N007 8.2k
R16 N001 N004 8.2k
R17 N002 N001 10k
R18 0 N006 10k
C7 0 N006 150p
R19 outputnode N002 1k
IREF 0 N003 PULSE(0 100u 0 10n 10n 500u 1m) AC 0
IREF_B 0 N008 PULSE(0 100u 0 10n 10n 500u 1m) AC 1
B§PD_A 0 N003 I = { alpha*Itotal + white(2*q*alpha*Itotal) }
B§PD_B 0 N008 I = { alpha*Itotal + white(2*q*alpha*Itotal) }
VSENSE N008 0 0
.model D D
.lib C:\Users\IT ZONE\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\IT ZONE\AppData\Local\LTspice\lib\cmp\standard.bjt
.model LinearModelLED D(Vfwd=1.2)
.param CTR=0.053 Cd=100pF Balance=0.5
;.step param Balance 0 1 0.1
;.ac dec 200 10 10Meg
; ===== PARAMETERS (optional for your PD sources) =====
.param q=1.602176634e-19
.param Itotal=10u
.param alpha=0.5
.step param alpha list 0 0.25 0.5 0.75 1
; ===== KEEP VECTORS =====
.option plotwinsize=0
; ---------- keep vectors / names ----------
.option plotwinsize=0
.save V(outputnode)
; ---------- NOISE: outputnode referenced to VSENSE ----------
.noise V(outputnode) VSENSE dec 200 10 1e6
; ---------- AC: transimpedance with IREF AC=1 ----------
;.ac dec 200 10 10Meg
; ---------- measurements ----------
.meas NOISE NO_PWR INTEG V(onoise)*V(onoise) FROM 10 TO 1e6
.meas NOISE NO_RMS PARAM sqrt(NO_PWR)
; with AC=1 A, |V(outputnode)| = |Zt|
.meas AC ZT_LF FIND mag(V(outputnode)) AT=100
.lib UniversalOpAmp1.lib
.backanno
.end
